US07122683B2
tert-butyl (3S)-3-{[(2,4-dinitrophenyl)sulfonyl]amino}pyrrolidine-1-carboxylate
tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate (5 g, 27 mmol) was added to a solution of 2,6-lutidine (6.2 mL, 54 mmol) in dichloromethane (150 ml) under nitrogen. The reaction mixture was cooled down to 0° C. and a solution of 2,4-dinitrobenzenesulphonyl chloride (7.15 g, 27 mmol) in dichloromethane (100 ml) was slowly added over 15 minutes at 0° C. The reaction mixture was then stirred at room temperature for 48 hours under nitrogen. Water (100 ml) was added followed by 2N aqueous hydrogen chloride until the aqueous layer reached pH 2. The layers were then separated and the aqueous layer extracted with more dichloromethane (100 ml). The organic phases were combined, washed twice with water (100 ml), dried over magnesium sulfate and concentrated in vacuo to provide the title compound as a gum, 10 g (89%).

reactant | tert-butyl (3S)-3-aminopyrrolidine-1-carboxylate | 27 mmol, 5 g | N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2,6-lutidine | 54 mmol, 6.2 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | 2,4-dinitrobenzenesulphonyl chloride | 27 mmol, 7.15 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3ClN2O6S
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | Water | 100 ml | O | H2O
product | tert-butyl (3S)-3-{[(2,4-dinitrophenyl)sulfonyl]amino}pyrrolidine-1-carboxylate | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C15H20N4O8S
